US07799822B2
To a 0° C. solution of chlorosulfonic acid, was added (R)-2-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-1-(4-phenylpiperazin-1-yl)propan-1-one over 5 minutes. The resultant solution was heated to 120° C. for 2 hrs. The reaction mixture was cooled and carefully poured into ice-water (750 mL). The solution was extracted with methylene chloride (4×250 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated. Purification via silica gel chromatography using 40-70% ethyl acetate in hexane gave 4-(4-((R)-2-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)propanoyl)piperazin-1-yl)benzene-1-sulfonyl chloride as a yellow oil (760 mg, 10%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=482.3; tR=3.65 min.

reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | (R)-2-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-1-(4-phenylpiperazin-1-yl)propan-1-one | ClC=1C=C2CCCN(C2=CC1)[C@@H](C(=O)N1CCN(CC1)C1=CC=CC=C1)C | C22H26ClN3O
product | 4-(4-((R)-2-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)propanoyl)piperazin-1-yl)benzene-1-sulfonyl chloride | 760 mg, 10% | ClC=1C=C2CCCN(C2=CC1)[C@@H](C(=O)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)Cl)C | C22H25Cl2N3O3S
